US03975524
1-(1-Oxido-thiomorpholino)-3-piperazino-5-nitro-isoquinoline was prepared analogous to Example 12 from 1-thiomorpholino-3-piperazino-5-nitro-isoquinoline hydrochloride by oxidation with hydrogen peroxide in dilute sulfuric acid. M.p. of its maleate: 231°-233°C (from isopropanol). Yield: 41% of theory.

reactant | 1-thiomorpholino-3-piperazino-5-nitro-isoquinoline hydrochloride | Cl.S1CCN(CC1)C1=NC(=CC2=C(C=CC=C12)[N+](=O)[O-])N1CCNCC1
reactant | hydrogen peroxide | OO | H2O2
reactant | maleate | C(\C=C/C(=O)[O-])(=O)[O-]
reactant | isopropanol | C(C)(C)O | C3H8O
solvent | sulfuric acid | S(O)(O)(=O)=O | H2O4S
product | 1-(1-Oxido-thiomorpholino)-3-piperazino-5-nitro-isoquinoline | Yield: 41% | O=S1CCN(CC1)C1=NC(=CC2=C(C=CC=C12)[N+](=O)[O-])N1CCNCC1 | C17H21N5O3S
